US08541575B2
N-{3-[4-pyridin-4-yl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazol-3-yl]-benzyl}-4-trifluoromethyl-benzamide (0.10 g, 0.19 mmol) was stirred in HCl 4M in dioxane at room temperature for 4 h. The solvent was evaporated under vacuum and the crude product was purified by reverse phase HPLC yielding N-[3-(4-pyridin-4-yl-1H-pyrazol-3-yl)-benzyl]-4-trifluoromethyl-benzamide (0.025 g, 0.06 mmol, 31%) as a solid.

reactant | N-{3-[4-pyridin-4-yl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazol-3-yl]-benzyl}-4-trifluoromethyl-benzamide | 0.19 mmol, 0.10 g | N1=CC=C(C=C1)C=1C(=NN(C1)COCC[Si](C)(C)C)C=1C=C(CNC(C2=CC=C(C=C2)C(F)(F)F)=O)C=CC1 | C29H31F3N4O2Si
solvent | HCl | 4M | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-[3-(4-pyridin-4-yl-1H-pyrazol-3-yl)-benzyl]-4-trifluoromethyl-benzamide | 0.06 mmol, 0.025 g, 31% | N1=CC=C(C=C1)C=1C(=NNC1)C=1C=C(CNC(C2=CC=C(C=C2)C(F)(F)F)=O)C=CC1 | C23H17F3N4O
